US05543409
Butyryl chloride (4.09 g) dissolved in 20 ml of tetrahydrofuran was added dropwise to 7.26 g of 2-amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane and 7.05 g of triethylamine suspended in 70 ml of 1,3-dimethyl-2-imidazolidinone. The mixture was stirred at room temperature for 4 hours. The reaction mixture was poured into ice water, and crystals precipitated were collected by filtration, washed with water and dried. The crystals were recrystallized from ethyl acetate to obtain 7.47 g of 2-butyrylamino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane.

reactant | Butyryl chloride | 4.09 g | C(CCC)(=O)Cl | C4H7ClO
reactant | 2-amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 7.26 g | NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C13H15N3O
reactant | triethylamine | 7.05 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-2-imidazolidinone | 70 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 2-butyrylamino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 7.47 g | C(CCC)(=O)NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C17H21N3O2
